US07799805B2
N-(4-Chloro-3-cyclopropylaminomethyl-benzyl)-acetamide
A mixture of N-(4-chloro-3-formyl-benzyl)-acetamide (382 mg, 1.81 mmol) and cyclopropylamine (0.194 mL, 2.71 mmol) in MeOH (18 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (102 mg, 2.71 mmol) was added in portions. The mixture was stirred for 1 h, and the solvents were removed under reduced pressure. EtOAc (50 mL) was added, and the resulting mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 95:5) yielded the title compound (371 mg, 81%). LC-MS: tR=0.53 min; ES+: 253.11.

reactant | N-(4-chloro-3-formyl-benzyl)-acetamide | 1.81 mmol, 382 mg | ClC1=C(C=C(CNC(C)=O)C=C1)C=O | C10H10ClNO2
reactant | cyclopropylamine | 2.71 mmol, 0.194 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 2.71 mmol, 102 mg | [BH4-].[Na+]
solvent | MeOH | 18 mL | CO | CH4O
product | N-(4-Chloro-3-cyclopropylaminomethyl-benzyl)-acetamide | 371 mg, 81% | ClC1=C(C=C(CNC(C)=O)C=C1)CNC1CC1 | C13H17ClN2O
